US05604242
A mixture of 1,2-diphenyl-1-propene (9.7 g, 50 mmol), N-bromosuccinimide (8.9 g, 50 mmol), dibenzoylperoxide (0.1 g) and tetrachloromethane (50 ml) was heated at reflux for 21 h. The mixture was filtered cold and the solvent evaporated from the filtrate in vacuo to give 13.1 g of 3-bromo-1,2-diphenyl-1-propene as an E/Z isomeric mixture.

reactant | 1,2-diphenyl-1-propene | 50 mmol, 9.7 g | C1(=CC=CC=C1)C=C(C)C1=CC=CC=C1 | C15H14
reactant | N-bromosuccinimide | 50 mmol, 8.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | dibenzoylperoxide | 0.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | tetrachloromethane | 50 ml | ClC(Cl)(Cl)Cl | CCl4
product | 3-bromo-1,2-diphenyl-1-propene | 13.1 g | BrCC(=CC1=CC=CC=C1)C1=CC=CC=C1 | C15H13Br
